US04952578
7β-Amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride (66 g) was dissolved in water (264 ml). The aqueous solution was subjected to column chromatography on "Diaion HP-20" using water as eluent. Fractions containing the object compound were combined and to this combined solution was added dropwise isopropyl alcohol (1.15 l) under ice-cooling. The mixture was stirred for 1.5 hours under ice-cooling to precipitate crystals. The crystals were collected by filtration and washed with a mixture of isopropyl alcohol and water (10:1) under ice-cooling and dried over phosphorus pentoxide to give 7β-amino-3-[3-amino-2-(2hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate.hydrochloride.dihydrate (29.95 g).

reactant | 7β-Amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride | 66 g | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O
reactant | isopropyl alcohol | 1.15 l | C(C)(C)O | C3H8O
solvent | water | 264 ml | O | H2O
product | 7β-amino-3-[3-amino-2-(2hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O | C13H17N5O4S
